US06348474B1
Methyl 3-(4-(N-benzenesulfonylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a solution of methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (200 mg) in dichloromethane (2 ml) was added pyridine (95.7 mg). Benzenesulfonyl chloride (117 mg) was added under ice-cooling and the mixture was stirred at room temperature for 12 hr. Water was added to the reaction mixture and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Methanol was added to the residue for crystallization, and the crystals were collected by filtration, dried under reduced pressure to give the objective compound (213 mg) as colorless crystals.

reactant | methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 200 mg | NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C16H15ClN4O2
reactant | pyridine | 95.7 mg | N1=CC=CC=C1 | C5H5N
reactant | Benzenesulfonyl chloride | 117 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Methyl 3-(4-(N-benzenesulfonylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 213 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C22H19ClN4O4S
